US05102897
5-[[3,5-Bis(1,1-dimethylethyl)-4-hydroxyphenoxy]-methyl]-1,3,4-oxadiazol-2(3H)-one
A 12.5% solution of phosgene in toluene (2.4 mL, 2.7 mmol) is added dropwise to a -78° C. of [3,5-bis(1,1-dimethylethyl)-4-hydroxyphenoxy]-acetic acid hydrazide (0.40 g, 1.36 mmol) in tetrahydrofuran (25 mL). The reaction mixture is stirred for 30 minutes, diluted with ethyl acetate, and washed three times with water and once with brine. Drying the organic phase over magnesium sulfate and evaporation gives a pale yellow oil which is crystallized from ethyl acetate/hexane yielding 0.34 g (79%) of 5-[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenoxy]methyl-1,3,4-oxadiazol-2(3H)-one; mp 138.0°-140.0° C.

reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | toluene | 2.7 mmol, 2.4 mL | C1(=CC=CC=C1)C | C7H8
reactant | [3,5-bis(1,1-dimethylethyl)-4-hydroxyphenoxy]-acetic acid hydrazide | 1.36 mmol, 0.40 g | CC(C)(C)C=1C=C(OCC(=O)NN)C=C(C1O)C(C)(C)C | C16H26N2O3
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-[[3,5-Bis(1,1-dimethylethyl)-4-hydroxyphenoxy]-methyl]-1,3,4-oxadiazol-2(3H)-one | CC(C)(C)C=1C=C(OCC2=NNC(O2)=O)C=C(C1O)C(C)(C)C | C17H24N2O4
